US09216980B2
Preparation of 4-(4-Bromophenyl)-4-hydroxypiperidine-1-carboxylic acid tert-butyl ester
Triethylamine (3.69 mL, 26.3 mmol) was added to a solution of 4-(4-bromo-phenyl)-piperidin-4-ol (5.18 g, 20.2 mmol) and di-tert-butyl dicarbonate (5.30 g, 20.2 mmol) in DCM (60 mL). The resultant reaction mixture was stirred at ambient temperature for 18 h, then diluted with water (100 mL) and extracted into DCM (3×50 mL). The combined organic phase was concentrated in vacuo and the residue purified by flash chromatography (silica, 40 g column, ISCO, 0-100% ethyl acetate in cyclohexane) to afford the title compound as a white solid (7.03 g, 98%). 1H NMR (CDCl3, 300 MHz): 7.49 (d, J=8.5 Hz, 2H), 7.35 (d, J=8.5 Hz, 2H), 4.04 (d, J=13.0 Hz, 2H), 3.29-3.15 (m, 2H), 1.96 (td, J=13.0, 5.0 Hz, 2H), 1.69 (dd, J=14.0, 2.5 Hz, 2H), 1.48 (s, 9H). LCMS (Method B): RT=3.88 min.

reactant | Triethylamine | 26.3 mmol, 3.69 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(4-bromo-phenyl)-piperidin-4-ol | 20.2 mmol, 5.18 g | BrC1=CC=C(C=C1)C1(CCNCC1)O | C11H14BrNO
reactant | di-tert-butyl dicarbonate | 20.2 mmol, 5.30 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 4-(4-Bromophenyl)-4-hydroxypiperidine-1-carboxylic acid tert-butyl ester | 7.03 g, 98% | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC=C(C=C1)Br | C16H22BrNO3
